US07247748B2
c) Methyl (3-{3-[[2-Chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]propoxy}phenyl)acetate
A solution of methyl [3-(3-bromopropoxy)phenyl]acetate (1.0 g, 3.48 mmole) and N-[2chloro-3-(trifluoromethyl)benzyl]-2,2-diphenylethanamine (1.63 g, 4.18 mmole) in 20 mL of acetonitrile was treated with potassium carbonate (0.72 g, 5.2 mmol). The reaction mixture was heated to reflux and stirred for 4 days. The reaction mixture was filtered, and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography (silica gel cartridge, Biotage 32–63 um, 60A) with 10% EtOAc:hexanes as the eluent to afford 1.69 g (81% yield) of the title compound as a viscous oil: 1H NMR (CDCl3, 400 MHz) δ 7.46–7.44 (d, 1 H, J=7.7), 7.25–7.14 (m, 12 H), 6.91–6.84 (m, 2 H), 6.66–6.62 (m, 2 H), 4.154.09 (t, 1 H, J=7.6), 3.78 (s, 1 H), 3.69–3.66 (m, 5 H), 3.59(S, 2 H), 3.15–3.13 (d, 2 H, J=7.7), 2.72–2.68 (t, 2 H, J=6.6), 1.87–1.80 (m, 2 H); MS (ESP+) m/e 597 (MH+); TLC (hexanes:EtOAc/9:1) Rf=0.36.

reactant | methyl [3-(3-bromopropoxy)phenyl]acetate | 3.48 mmole, 1.0 g | BrCCCOC=1C=C(C=CC1)CC(=O)OC | C12H15BrO3
reactant | N-[2chloro-3-(trifluoromethyl)benzyl]-2,2-diphenylethanamine | 4.18 mmole, 1.63 g | ClC1=C(CNCC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C22H19ClF3N
reactant | potassium carbonate | 5.2 mmol, 0.72 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Methyl (3-{3-[[2-Chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]propoxy}phenyl)acetate | 1.69 g, 81% yield | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)OC)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C34H33ClF3NO3
